US07220880B2
(R,S)-3-[4-(1-Carboxy-ethoxy)-phenyl]-2-ethoxy-propionic acid ethyl ester
To a solution of (R,S)-3-[4-(1-benzyloxycarbonyl-ethoxy)-phenyl]-2-ethoxy-propionic acid ethyl ester (1.05 g, 2.63 mmol) in EtOH (20 ml) and H2O (0.5 ml) was added a slurry of Pd—C (5%, 100 mg) in EtOH (10 ml). The suspension was hydrogenated under balloon pressure for 2 hours. The mixture was filtered through a pad of celite and concentrated to a residue, the residue was then purified by silica gel chromatography with EtOAc/Hexanes (25% to 100%) to afford the acid product (550 mg, 68%).

reactant | (R,S)-3-[4-(1-benzyloxycarbonyl-ethoxy)-phenyl]-2-ethoxy-propionic acid ethyl ester | 2.63 mmol, 1.05 g | C(C)OC([C@@H](CC1=CC=C(C=C1)O[C@@H](C)C(=O)OCC1=CC=CC=C1)OCC)=O | C23H28O6
solvent | EtOH | 20 ml | CCO | C2H6O
solvent | H2O | 0.5 ml | O | H2O
solvent | EtOH | 10 ml | CCO | C2H6O
catalyst | Pd—C | 100 mg | [Pd] | Pd
product | (R,S)-3-[4-(1-Carboxy-ethoxy)-phenyl]-2-ethoxy-propionic acid ethyl ester | 550 mg, 68% | C(C)OC([C@@H](CC1=CC=C(C=C1)O[C@@H](C)C(=O)O)OCC)=O | C16H22O6
